US06977243B2
Form E is prepared by dissolving azithromycin in THF (tetrahydrofuran). Diffusing water vapor through saturated azithromycin THF solution over time yields crystals of Form E.

reactant | azithromycin | CC[C@@H]1[C@@]([C@@H]([C@H](N(C[C@@H](C[C@@]([C@@H]([C@H]([C@@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)N(C)C)O)(C)O)C)C)C)O)(C)O | C38H72N2O12
reactant | water | O | H2O
solvent | THF | O1CCCC1 | C4H8O
product | azithromycin THF | CC[C@@H]1[C@@]([C@@H]([C@H](N(C[C@@H](C[C@@]([C@@H]([C@H]([C@@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)N(C)C)O)(C)O)C)C)C)O)(C)O.C1CCOC1 | InChI=1S/C38H72N2O12.C4H8O/c1-15-27-38(10,46)31(42)24(6)40(13)19-20(2)17-36(8,45)33(52-35-29(41)26(39(11)12)16-21(3)48-35)22(4)30(23(5)34(44)50-27)51-28-18-37(9,47-14)32(43)25(7)49-28;1-2-4-5-3-1/h20-33,35,41-43,45-46H,15-19H2,1-14H3;1-4H2/t20-,21-,22+,23-,24-,25+,26+,27-,28+,29-,30+,31-,32+,33-,35+,36-,37-,38-;/m1./s1
